US07592365B2
0.227 cm3 (1.62 mmol) of triethylamine and 0.085 cm3 (0.81 mmol) of butyryl chloride are added, at a temperature close to 25° C., to a solution of 0.20 g (0.81 mmol) of 2-amino-4-(4-nitro-phenyl)-1H-pyrrole-3-carboxamide in 25 cm3 of tetrahydrofuran. After stirring for 16 hours at this temperature, the reaction medium is concentrated to dryness under reduced pressure (2.7 kPa) to give a residue which is stirred in 60 cm3 of ethyl acetate and then washed with three times 20 cm3 of water. The organic phase is dried over anhydrous magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2.7 kPa) to give 0.221 g of 2-butyrylamino-4-(4-nitrophenyl)-1H-pyrrole-3-carboxamide in the form of a brown powder. 1H NMR (400 MHz, (CD3)2SO, —δ in ppm) 0.94 (t, J=7.5 Hz, 3H); 1.63 (m, 2H); 2.36 (t, J=7.5 Hz, 2H); from 6.20 to 8.50 (very broad m, 2H); 6.79 (d, J=3.0 Hz, 1H); 7.64 (d, J=9.0 Hz, 2H); 8.18 (d, J=9.0 Hz, 2H); 10.3 (broad s, 1H); 11.6 (broad s, 1H).

reactant | triethylamine | 1.62 mmol, 0.227 cm3 | C(C)N(CC)CC | C6H15N
reactant | butyryl chloride | 0.81 mmol, 0.085 cm3 | C(CCC)(=O)Cl | C4H7ClO
reactant | 2-amino-4-(4-nitro-phenyl)-1H-pyrrole-3-carboxamide | 0.81 mmol, 0.20 g | NC=1NC=C(C1C(=O)N)C1=CC=C(C=C1)[N+](=O)[O-] | C11H10N4O3
solvent | tetrahydrofuran | 25 cm3 | O1CCCC1 | C4H8O
solvent | ethyl acetate | 60 cm3 | C(C)(=O)OCC | C4H8O2
product | 2-butyrylamino-4-(4-nitrophenyl)-1H-pyrrole-3-carboxamide | 0.221 g | C(CCC)(=O)NC=1NC=C(C1C(=O)N)C1=CC=C(C=C1)[N+](=O)[O-] | C15H16N4O4
